US09403818B2
Preparation of 2-(1-cyclopropyl-2-methoxy-vinyl)-3-methyl-4-chloro-pyridine
A solution of methoxymethyl triphenylphosphonium chloride (17.9 g, 52.3 mmol) in dry THF (80 mL) was treated with NaH (2.79 g, 69.8 mmol) at 0° C. for 3 h. To this mixture was added a solution of (3-methyl-4-chloro-pyridin-2-yl)-cyclopropyl-methanone (6.82 g, 34.9 mmol) in dry THF (20 mL). The reaction mixture was heated at 40° C. overnight. The reaction mixture was cooled down to room temperature and filtered. The filtrate was concentrated to dryness. The residue was purified by flash silica column chromatography (hexane:ethyl acetate, 3:1) to afford the title compound (6.41 g, 82%).

reactant | methoxymethyl triphenylphosphonium chloride | 52.3 mmol, 17.9 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaH | 69.8 mmol, 2.79 g | [H-].[Na+]
reactant | (3-methyl-4-chloro-pyridin-2-yl)-cyclopropyl-methanone | 34.9 mmol, 6.82 g | CC=1C(=NC=CC1Cl)C(=O)C1CC1 | C10H10ClNO
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(1-cyclopropyl-2-methoxy-vinyl)-3-methyl-4-chloro-pyridine | 6.41 g, 82% | C1(CC1)C(=COC)C1=NC=CC(=C1C)Cl | C12H14ClNO
